US07247728B2
N-(3a,7a-Dihydro-1H-indazol-6-yl)quinuclidine-3-carboxamid Hydrochloride
In analogy to the method described in Example 2, 250 mg (2.57 mmol) of 3-quinuclidinecarbonyl chloride, 461 mg (3.57 mmol) of N,N-diisopropylethylamine, catalytic amounts of DMAP (approx. 1 mg) and 158 mg (1.19 mmol) of 4-aminoindazole are reacted.

reactant | 3-quinuclidinecarbonyl chloride | 2.57 mmol, 250 mg | N12CC(C(CC1)CC2)C(=O)Cl | C8H12ClNO
reactant | N,N-diisopropylethylamine | 3.57 mmol, 461 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-aminoindazole | 1.19 mmol, 158 mg | NC1=C2C=NNC2=CC=C1 | C7H7N3
catalyst | DMAP | approx. 1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(3a,7a-Dihydro-1H-indazol-6-yl)quinuclidine-3-carboxamid Hydrochloride | Cl.N1N=CC2C=CC(=CC12)NC(=O)C1CN2CCC1CC2 | InChI=1S/C15H20N4O.ClH/c20-15(13-9-19-5-3-10(13)4-6-19)17-12-2-1-11-8-16-18-14(11)7-12;/h1-2,7-8,10-11,13-14,18H,3-6,9H2,(H,17,20);1H
